US08609653B2
A mixture of 2-amino-1-(3,4-difluorobenzyl)-1H-pyrrole-3-carbonitrile (20 g, 86 mmol) and toluene (700 mL) was heated to reflux eliminating 30 mL of toluene using a Dean-Stark trap then (E)-ethyl 3-ethoxybut-2-enoate (14.9 g, 94 mmol) and 4-methylbenzenesulfonic acid hydrate (1.6 g, 8.56 mmol) and were added. The mixture was heated to 155° C. for 1 h using a Dean-Stark trap to eliminate 350 mL of solvent. The mixture was cooled to 0° C. and sodium ethoxide (41.6 mL, 111 mmol, 21% wt/EtOH) was added dropwise and the mixture was heated to reflux (145° C.) for 1 h using a Dean-Stark trap to eliminate 100 mL of solvent. Water was added followed by 1M HCl/water adjusting the pH-9. The mixture was extracted with EtOAc. The organic phase was dried (Na2SO4), concentrated, and purified by column chromatography provide ethyl 4-amino-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (23.1 g, 66.8 mmol, 78% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.43 (t, J=7 Hz, 3 H), 2.78 (s, 3 H), 4.40 (q, J=7 Hz, 2 H), 5.36 (s, 2 H), 6.3 (br s, 2 H), 6.5 (m, 2 H), 6.6-7.2 (m, 4 H); LCMS (m/z) ES+=346 (M+1).

reactant | 2-amino-1-(3,4-difluorobenzyl)-1H-pyrrole-3-carbonitrile | 86 mmol, 20 g | NC=1N(C=CC1C#N)CC1=CC(=C(C=C1)F)F | C12H9F2N3
reactant | (E)-ethyl 3-ethoxybut-2-enoate | 94 mmol, 14.9 g | C(C)O/C(=C/C(=O)OCC)/C | C8H14O3
reactant | 4-methylbenzenesulfonic acid hydrate | 8.56 mmol, 1.6 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
reactant | sodium ethoxide | 111 mmol, 41.6 mL | [O-]CC.[Na+]
reactant | HCl water | 1M | Cl.O
solvent | Water | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-amino-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 66.8 mmol, 23.1 g, 78% yield | NC1=C2C(=NC(=C1C(=O)OCC)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C18H17F2N3O2
